US06822097B1
Step (b) Preparation of 2-[2-(6-methoxy-3-pyridyl)-1,3-thiazol-4-yl]acetic acid
This material was prepared according to the procedure described for Example 24(b) using methyl 2-[2-(6-methoxy-3-pyridyl)-1,3-thiazol-4-yl]acetate (Step a, 1.1 g, 4.2 mmol) and LiOH (2 N, 7.0 mL) in THF (10 mL) and MeOH (3 mL). The solution was stirred at RT for 18 h, and HCl (aq. 1 N) was added to adjust the reaction mixture to pH ˜2. The solvents were evaporated and the resulting residue was partitioned between EtOAc (75 mL) and H2O (75 mL). The layers were separated and the aqueous layer was extracted again with EtOAc (75 mL). The organic layers were combined, dried (Na2SO4) and concentrated to afford the title compound as a light yellow solid. MS m/z: 251 (M+1). Calc'd for C11H10N2O3S: 250.04.

reactant | methyl 2-[2-(6-methoxy-3-pyridyl)-1,3-thiazol-4-yl]acetate | COC1=CC=C(C=N1)C=1SC=C(N1)CC(=O)OC | C12H12N2O3S
reactant | LiOH | 2 N, 7.0 mL | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | 2-[2-(6-methoxy-3-pyridyl)-1,3-thiazol-4-yl]acetic acid | COC1=CC=C(C=N1)C=1SC=C(N1)CC(=O)O | C11H10N2O3S
